US06518264B2
On carrying out the operation according to the procedure of Example 58 starting with 5.1 g of 1-[bis(4-chlorophenyl)methyl]-3-{[3-(tert-butyldimethylsilyloxymethyl)phenyl](methylsulfonyl)methylene}azetidine and 17 cm3 of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran, the residue obtained is purified by chromatography on a silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 30 cm), at a nitrogen pressure of 0.5 bar with a dichloromethane and ethanol mixture (97/3 by volume) as eluent and collecting 100 cm3 fractions. Fractions 10 to 14 are combined, concentrated to dryness under reduced pressure (2.7 kPa). The yellow solid obtained is taken up in 2 cm3 of dichloromethane and 10 cm3 of ethyl acetate and then filtered on sintered glass and washed with 2 cm3 of ethyl acetate. 1.6 g of 1-[bis(4-chlorophenyl)methyl]-3-[(3-hydroxymethylphenyl)(methylsulfonyl)methylene]azetidine are obtained in the form of a white solid melting at 214° C. [NMR spectrum in DMSO-d6, T=300K, δ in ppm (400 MHz): 2.95 (3H, s, SCH3), 3.80 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.50 (2H, d, J=5 Hz, OCH2), 4.80 (1H, s, NCH), 5.25 (1H, t, J=5 Hz, OH), 7.30 (1H, d, J=7 Hz, CH arom.), between 7.35 and 7.45 (7H, m, 7CH arom.), 7.50 (4H, d, J=7 Hz, 4CH arom.)].

reactant | 1-[bis(4-chlorophenyl)methyl]-3-{[3-(tert-butyldimethylsilyloxymethyl)phenyl](methylsulfonyl)methylene}azetidine | 5.1 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)Cl | C31H37Cl2NO3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
product | 1-[bis(4-chlorophenyl)methyl]-3-[(3-hydroxymethylphenyl)(methylsulfonyl)methylene]azetidine | 1.6 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)CO)C1=CC=C(C=C1)Cl | C25H23Cl2NO3S
